datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5](=[C:6]([H:17])[H:18])[H:16])[C:7]([C:8]([C:9]([H:21])([H:22])[H:23])[C:10](=[C:11]([H:25])[H:26])[H:24])([H:19])[H:20])[H:12]>>[C:0](#[C:1][C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([C:5](=[C:6]([H:17])[H:18])[H:16])[C:7]([H:19])([H:20])[C:8]1([C:9]([H:21])([H:22])[H:23])[C:10](=[C:11]([H:25])[H:26])[H:24])[H:12],165.142
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[O:12][O:13][C:14](=[O:15])[H:16]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[H:6][O:12][O:13][C:14](=[O:15])[H:16],58.19944
[C:0]([C:1]([S:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[C:9]([C:10]=[S:11])([H:12])([H:13])[H:14]>>[C:0]([C:1]([S:2][H:8])[H:7])([H:3])([H:4])[H:5].[H:6][C:10]([C:9]([H:12])([H:13])[H:14])=[S:11],41.84
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5]([C:6]([O:7][O:8])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([H:2])([H:3])[H:4].[H:1][O:8][O:7][C:6]([C:5]([H:9])([H:10])[H:11])([H:12])[H:13],77.32032
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[S:11]([S:12][H:14])[H:13]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[H:13])[H:6])([H:4])[H:5].[S:11][S:12][H:14],5.0208
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:32]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])([H:10])([H:11])[H:12].[H:13][H:32],18.706664
[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7].[C:14]([C:15]([C:16]([H:21])([H:22])[H:23])[C:17]([H:24])([H:25])[H:26])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[C:15]([C:14]([H:18])([H:19])[H:20])([C:16]([H:21])([H:22])[H:23])[C:17]([H:24])([H:25])[H:26])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7],-8.28432
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12]([O:13])([H:14])([H:15])[H:16]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])([C:3]([H:9])([H:10])[H:11])[O:13][C:12]([H:14])([H:15])[H:16])([H:4])[H:5],31.7984
[C:0]([C:1]([C:2]([H:14])([H:15])[H:16])=[C:3]([C:4]([H:17])([H:18])[H:19])[c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:32])([H:33])[H:34])[C:28]([H:35])([H:36])[H:37])([H:29])([H:30])[H:31]>>[C:0]([C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([C:4]([H:17])([H:18])[H:19])[c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[C:26]([C:25]([H:29])([H:30])[H:31])([C:27]([H:32])([H:33])[H:34])[C:28]([H:35])([H:36])[H:37])([H:11])([H:12])[H:13],14.0164
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7]([H:8])([H:9])[H:10]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][C:7]([H:8])([H:9])[H:10],23.4304
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:30][H:31]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:22][O:30][H:31],-5.008248
[C:0](=[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([C:6](=[C:7]([H:20])[H:21])[C:8](=[C:9]([H:23])[H:24])[H:22])([H:18])[H:19])([H:16])[H:17])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([C:8](=[C:9]([H:23])[H:24])[H:22])[C:7]1([H:20])[H:21])[H:12])([H:10])[H:11],85.8557
[C:0]([C:1]([C:2]([H:14])([H:15])[H:16])=[C:3]([C:4]([H:17])([H:18])[H:19])[c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])([H:11])([H:12])[H:13].[C:25]([c:26]1[c:27]([H:34])[c:28]([H:35])[c:29]([H:36])[c:30]([H:37])[c:31]1[H:38])([H:32])[H:33]>>[C:0]([C:1]([C:2]([H:14])([H:15])[H:16])[C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[C:25]([c:26]1[c:27]([H:34])[c:28]([H:35])[c:29]([H:36])[c:30]([H:37])[c:31]1[H:38])([H:32])[H:33])([H:11])([H:12])[H:13],54.392
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:11])[H:10])([H:8])[H:9].[C:18]([C:19]([H:22])([H:23])[H:24])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])([C:6](=[C:7]([H:16])[H:17])[H:15])[C:18]([C:19]([H:22])([H:23])[H:24])([H:20])[H:21])[H:11])[H:10])([H:8])[H:9],18.8698
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11](=[S:12])[H:16])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[H:16])[H:4].[C:9](=[C:10]([C:11]=[S:12])[H:15])([H:13])[H:14],58.1576
